US08431563B2
A 250 mL round-bottomed flask was charged with 1-bromo-4-(phenylsulfonyl)benzene (2.50 g, 8.41 mmol), bis(pinacolato)diboron (2.46 g, 9.67 mmol, Sigma-Aldrich, St. Louis, Mo.), 1,1′bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.344 g, 0.421 mmol, Sigma-Aldrich, St. Louis, Mo.), potassium acetate (2.48 g, 25.2 mmol), and 50 ml, of dioxane. This mixture was heated at 100° C. for 12 h and then cooled to room temperature. The reaction was diluted with EtOAc (200 mL), filtered, and concentrated to give a dark solid. This solid was slurried with cold (0° C.) MeOH (50 mL) to give 4,4,5,5-tetramethyl-2-(4-(phenylsulfonyl)phenyl)-1,3,2-dioxaborolane (2.20 g) as a gray solid.

reactant | 1-bromo-4-(phenylsulfonyl)benzene | 8.41 mmol, 2.50 g | BrC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C12H9BrO2S
reactant | bis(pinacolato)diboron | 9.67 mmol, 2.46 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 25.2 mmol, 2.48 g | C(C)(=O)[O-].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | 0.421 mmol, 0.344 g | Cl[Pd]Cl
solvent | MeOH | 50 mL | CO | CH4O
product | 4,4,5,5-tetramethyl-2-(4-(phenylsulfonyl)phenyl)-1,3,2-dioxaborolane | 2.20 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)C | C18H21BO4S
